US08227481B2
2-[2-Methyl-4-((2S,3′S)-2-methyl-[1,3]bipyrrolidinyl-1′-yl)-phenyl]-2,8-diaza-spiro[4.5]decan-1-one
2-[2-Methyl-4-((2S,3′S)-2-methyl-[1,3]bipyrrolidinyl-1′-yl)-phenyl]-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester (150 mg) was treated with 1 mL (excess) of 4M HCl in dioxane at 0° C. The stirring was continued at rt for 1 h. The solvent was evaporated and the solid was further dried under high vacuum at rt for 2 h to obtain the title compound as a tan solid.

reactant | 2-[2-Methyl-4-((2S,3′S)-2-methyl-[1,3]bipyrrolidinyl-1′-yl)-phenyl]-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 150 mg | C(C)(C)(C)OC(=O)N1CCC2(CCN(C2=O)C2=C(C=C(C=C2)N2C[C@H](CC2)N2[C@H](CCC2)C)C)CC1 | C29H44N4O3
reactant | HCl | 4M, 1 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[2-Methyl-4-((2S,3′S)-2-methyl-[1,3]bipyrrolidinyl-1′-yl)-phenyl]-2,8-diaza-spiro[4.5]decan-1-one | CC1=C(C=CC(=C1)N1C[C@H](CC1)N1[C@H](CCC1)C)N1C(C2(CC1)CCNCC2)=O | C24H36N4O
